US09085555B2
C. (2R,3S)-3-Fluoro-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester
A solution of (2R,3S)-3-fluoro-pyrrolidine-1,2-dicarboxylic acid 2-benzyl ester 1-tert-butyl ester (252 mg, 0.778 mmol; 72% purity by HPLC/215 nm) in MeOH (20 mL) was hydrogenated at RT (1 atm) over Pd/C 10% (35 mg, 10% w/w) for 24 h. The reaction mixture was filtered through a 0.45 microns filter and concentrated under reduced pressure to give the crude title compound (70% purity by HPLC/215 nm) as a white solid. This material was used in the next reaction step without further purification. MS (LC/MS): 232 [M−H]+; tR (HPLC conditions b): 2.78 min.

reactant | (2R,3S)-3-fluoro-pyrrolidine-1,2-dicarboxylic acid 2-benzyl ester 1-tert-butyl ester | 0.778 mmol, 252 mg | C(C)(C)(C)OC(=O)N1[C@@H]([C@H](CC1)F)C(=O)OCC1=CC=CC=C1 | C17H22FNO4
solvent | MeOH | 20 mL | CO | CH4O
catalyst | Pd/C | 35 mg | [Pd] | Pd
product | (2R,3S)-3-Fluoro-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 70% | C(C)(C)(C)OC(=O)N1[C@@H]([C@H](CC1)F)C(=O)O | C10H16FNO4
